US20010023249A1
(S)-{4-[(1-{2-[(Azepane-1-carbonyl)-amino]-4-methyl-pentanoyl}-piperidin-4-yl)-(3-methyl-but-2-enyl)-amino]-phenyl}-carbamic acid benzyl ester
(4-Benzyloxycarbonylamino-phenyl)-(3-methyl-but-2-enyl)-piperidin-4-yl-amine (0.35 g, 0.88 mmol) was dissolved in; DMF (8 mL), treated with Hunig's base (0.47 mL, 2.64 mmol), (S)-2-[(azepane-1-carbonyl)-amino]-4-methyl-pentanoic acid (0.21 g, 0.88 mmol), and HBTU (0.34 g, 0.88 mmol). The reaction was stirred 2 hours, then diluted with EtOAc (100 mL), washed with saturated sodium bicarbonate solution and brine, dried over Na2SO4, and concentrated. The residue was chromatographed on silica gel eluting with 5% MeOH/CH2Cl2 to give 0.49 g (93%) of the desired product.

reactant | (4-Benzyloxycarbonylamino-phenyl)-(3-methyl-but-2-enyl)-piperidin-4-yl-amine | 0.88 mmol, 0.35 g | C(C1=CC=CC=C1)OC(=O)NC1=CC=C(C=C1)N(C1CCNCC1)CC=C(C)C | C24H31N3O2
reactant | Hunig's base | 2.64 mmol, 0.47 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-2-[(azepane-1-carbonyl)-amino]-4-methyl-pentanoic acid | 0.88 mmol, 0.21 g | N1(CCCCCC1)C(=O)N[C@H](C(=O)O)CC(C)C | C13H24N2O3
reactant | HBTU | 0.88 mmol, 0.34 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | (S)-{4-[(1-{2-[(Azepane-1-carbonyl)-amino]-4-methyl-pentanoyl}-piperidin-4-yl)-(3-methyl-but-2-enyl)-amino]-phenyl}-carbamic acid benzyl ester | 0.49 g, 93% | C(C1=CC=CC=C1)OC(NC1=CC=C(C=C1)N(CC=C(C)C)C1CCN(CC1)C([C@H](CC(C)C)NC(=O)N1CCCCCC1)=O)=O | C37H53N5O4
